US04822811
N-hydroxy-N-(1-dibenzofur-3-ylethyl) acetamide
N-acetoxy-N-(1-dibenzofur-3-ylethyl) acetamide. Acetic anhydride (9.0 mL) was added to a solution of the crude hydroxylamine, prepared as in step c, and triethyl amine (12.4 mL) in methylene chloride (50 mL). The reaction was stirred overnight, then washed with cold water and 3 N HCl. The methylene chloride layer was dried (Na2SO4) and concentrated to give a yellowish oil. This residue was chromatographed on 100 g of silica gel, eluting with 20% ethyl acetate in hexanes to give the desired product.

reactant | N-acetoxy-N-(1-dibenzofur-3-ylethyl) acetamide | C(C)(=O)ON(C(C)=O)C(C)C=1C=CC2=C(OC3=C2C=CC=C3)C1 | C18H17NO4
reactant | Acetic anhydride | 9.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydroxylamine | NO | H3NO
reactant | triethyl amine | 12.4 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-hydroxy-N-(1-dibenzofur-3-ylethyl) acetamide | ON(C(C)=O)C(C)C=1C=CC2=C(OC3=C2C=CC=C3)C1 | C16H15NO3
